US07042755B1
15-(Ferrocenylcarbonyl)pentadecyl bromide (23)
16-Bromohexadecanoic acid (4.5 g, 14 mmol) in SOCl2 (50 mL) was heated at 50° C. under argon for 1 h. The excess SOCl2 was removed by water pump distillation with benzene (3×50 mL). 4.3 g (95%) of 16-bomohexadecanoyl chloride was obtained as a colorless oil and used in the subsequent reaction without further purification. 16-Bromohexadecanoyl chloride (4.5 g, 13 mmol) was treated with ferrocene (2.5 g, 14 mmol) following the same procedure as described for 22 to form a brown oil (5.7 g, 85%): 1H NMR δ 1.25 (s, 22H), 1.68 (m, 2H), 1.84 (m, 2H), 2.68 (m, 2H), 3.39 (m, 2H), 4.18 (s, 5H), 4.47 (A2B2, J=1.5 Hz, 2H), 4.76 (A2B2, J=1.5 Hz, 2H); 13C NMR δ 25.3, 28.8, 29.4, 30.1, 30.2, 30.3, 34.8, 40.4, 70.0, 70.4, 72.7, 89.1, 205.4; FAB-MS obsd 502.1533, calcd exact mass 502.1535 (C26H39BrFeO).

reactant | 16-Bromohexadecanoyl chloride | 13 mmol, 4.5 g | BrCCCCCCCCCCCCCCCC(=O)Cl | C16H30BrClO
reactant | ferrocene | 14 mmol, 2.5 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | 15-(Ferrocenylcarbonyl)pentadecyl bromide | 5.7 g, 85% | [C-]1(C=CC=C1)C(=O)CCCCCCCCCCCCCCCBr.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C21H34BrO.C5H5.Fe/c22-19-15-11-9-7-5-3-1-2-4-6-8-10-12-18-21(23)20-16-13-14-17-20;1-2-4-5-3-1;/h13-14,16-17H,1-12,15,18-19H2;1-5H;/q2*-1;+2
